US08669271B2
4-[5-(4-Methanesulfonyl-phenyl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid isopropyl ester
To a mixture of 4-(5-bromo-2,3-dihydro-benzofuran-2-yl)-piperidine-1-carboxylic acid isopropyl ester (200 mg) and 4-(methanesulfonyl)phenylboronic acid (119 mg) in N,N-dimethylformamide (2 mL) a 2 M aqueous Na2CO3 solution (0.68 mL) is added. The mixture is sparged with argon for 10 min and PdCl2[1,1′-bis(diphenylphosphino)-ferrocene]*CH2Cl2 complex (44 mg) is added. The resulting mixture is stirred over night at 90° C. After cooling to room temperature, water (20 mL) is added and the mixture is extracted three times with ethyl acetate. The organic phase is dried (Na2SO4) and the solvent is evaporated. The residue is chromatographed on silica gel (ethyl acetate/cyclohexane 1:22:1) to give the title compound. Yield: 149 mg (62% of theory); LC (method 1): tR=1.29 min; Mass spectrum (ESI+): m/z=444 [M+H]+.

reactant | 4-(5-bromo-2,3-dihydro-benzofuran-2-yl)-piperidine-1-carboxylic acid isopropyl ester | 200 mg | C(C)(C)OC(=O)N1CCC(CC1)C1OC2=C(C1)C=C(C=C2)Br | C17H22BrNO3
reactant | 4-(methanesulfonyl)phenylboronic acid | 119 mg | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
reactant | Na2CO3 | 2 M, 0.68 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 4-[5-(4-Methanesulfonyl-phenyl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1CCC(CC1)C1OC2=C(C1)C=C(C=C2)C2=CC=C(C=C2)S(=O)(=O)C | C24H29NO5S
